US04737519
Triethylamine (3 eq) and dry methylene chloride (150 ml) are introduced to a mixture of 2,3-diethyl-4-methoxynaphthol (1.59 g, 6.5 mmole), dimethylamino acetic acid hydrochloride (2 eq, 1.8 g, 13.0 mmole), dicyclohexylcarbadiimide (2 eq, 2.7 g, 13.0 mmole) and 4-dimethylaminpyridine (1 eq, 2.7 ml, 19.5 mmole), prepared under an argon atmosphere, at room temperature under argon. The resulting suspension is stirred at room temperature for 20 hours under argon, then diluted with 300 ml of methylene chloride. The methylene chloride extracts are washed thoroughly with saturated aqueous sodium bicarbonate solution and water, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue is chromatographed through a silica gel (200 g) flash column and eluted by ether to give 1.48 g (72.2%) of N,N-dimethylamino acetic acid, 2,3-diethyl-4-methoxynaphth-1-yl ester as a yellowish brown oil.

reactant | Triethylamine | 3 eq | C(C)N(CC)CC | C6H15N
reactant | 2,3-diethyl-4-methoxynaphthol | 6.5 mmole, 1.59 g | C(C)C1=C(C2=CC=CC=C2C(=C1CC)OC)O | C15H18O2
reactant | dimethylamino acetic acid hydrochloride | 13.0 mmole, 1.8 g, 2 eq | Cl.CN(C)CC(=O)O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N,N-dimethylamino acetic acid, 2,3-diethyl-4-methoxynaphth-1-yl ester | 1.48 g, 72.2% | CN(C)CC(=O)OC1=C(C(=C(C2=CC=CC=C12)OC)CC)CC | C19H25NO3
